US08022223B2
A 10 mL round-bottomed flask was charged with tert-butyl 4-((5-(3-(4-fluorophenoxy)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)methyl)piperidine-1-carboxylate (52.2 mg, 0.0802 mmol) and a 1:1 mix of methanol and CH2Cl2 (4 mL). 4N HCl in dioxane (2 mL) was added and the reaction stirred at room temperature for 10 minutes. The solvent was removed to afford crude 3-(4-fluorophenoxy)-N-(3-(piperidin-4-ylmethyl)-1,2,4-thiadiazol-5-yl)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-amine trihydrochloride (52.9 mg, 100%).

reactant | tert-butyl 4-((5-(3-(4-fluorophenoxy)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-ylamino)-1,2,4-thiadiazol-3-yl)methyl)piperidine-1-carboxylate | 0.0802 mmol, 52.2 mg | FC1=CC=C(OC=2C(=NC=C(C2)SC2=C3C(=NC=C2)C=CS3)NC3=NC(=NS3)CC3CCN(CC3)C(=O)OC(C)(C)C)C=C1 | C31H31FN6O3S3
reactant | methanol | CO | CH4O
reactant | CH2Cl2 | 4 mL | C(Cl)Cl | CH2Cl2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 3-(4-fluorophenoxy)-N-(3-(piperidin-4-ylmethyl)-1,2,4-thiadiazol-5-yl)-5-(thieno[3,2-b]pyridin-7-ylthio)pyridin-2-amine trihydrochloride | 52.9 mg, 100% | Cl.Cl.Cl.FC1=CC=C(OC=2C(=NC=C(C2)SC2=C3C(=NC=C2)C=CS3)NC3=NC(=NS3)CC3CCNCC3)C=C1 | InChI=1S/C26H23FN6OS3.3ClH/c27-17-1-3-18(4-2-17)34-21-14-19(36-22-7-11-29-20-8-12-35-24(20)22)15-30-25(21)32-26-31-23(33-37-26)13-16-5-9-28-10-6-16;;;/h1-4,7-8,11-12,14-16,28H,5-6,9-10,13H2,(H,30,31,32,33);3*1H
